US06258822B1
2-Trifluoromethanesulfonyloxy-8-aminonaphthalene
A solution of 8-amino-2-naphthol (10 g) and triethylamine (12 mL) in dioxane (200 mL) was treated with N-phenyltrifluoromethane sulfonimide (25 g) in dioxane (80 mL), stirred for 4 h and concentrated. The resulting dark brown solid was triturated with hexane and filtered to provide 12 g of the title compound as a brown solid.

reactant | 8-amino-2-naphthol | 10 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | triethylamine | 12 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethane sulfonimide | 25 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 2-Trifluoromethanesulfonyloxy-8-aminonaphthalene | 12 g | FC(S(=O)(=O)OC1=CC2=C(C=CC=C2C=C1)N)(F)F | C11H8F3NO3S
